US05550276
Synthesis of diethyl 2-dodecylsulfoxy-1-hydroxy-1 -methylethanephosphonate
11.3 g (81.9 mmol) of diethyl phosphite and 2 ml of 1,8-diazabicyclo[5.4.0]undecene (DBU) are initially introduced into 200 ml of anhydrous tetrahydrofuran, a solution of 15.0 g (81.9 mmol) of dodecylsulfoxyacetone in 50 ml of tetrahydrofuran is added dropwise, and the mixture is subsequently refluxed for 8 hours. When the solution has cooled, it is washed twice using saturated sodium chloride solution and dried over sodium sulfate, and the solvent is distilled off, finally at 0.5 mbar and 60° C. bath temperature.

reactant | diethyl phosphite | 81.9 mmol, 11.3 g | P(OCC)(OCC)[O-]
reactant | 1,8-diazabicyclo[5.4.0]undecene | 2 ml | N12C=CCCCC2NCCC1 | C9H16N2
reactant | dodecylsulfoxyacetone | 81.9 mmol, 15.0 g | C(CCCCCCCCCCC)C(C(C)=O)OS(=O)(=O)O | C15H30O5S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | diethyl 2-dodecylsulfoxy-1-hydroxy-1 -methylethanephosphonate | C(CCCCCCCCCCC)C(C(P(OCC)(=O)OCC)(C)O)OS(=O)(=O)O | C19H41O8PS
